US04499094
3.3 g of 4-(2-fluorophenyl) quinoline 2-carboxylic acid in 10 ml of thionyl chloride are brought to boiling point. After reaction, the thionyl chloride is evaporated and the residue taken up in 30 ml of toluene which is again evaporated. The residue is redissolved in 100 ml of toluene and 4.8 ml of triethylamine, then under agitation, 1.8 g of N-methyl 2-butanamine hydrochloride are added. After 14 h. the reaction mixture is taken up in 100 ml of water. The organic phase is decanted, the aqueous phase is extracted 3 times each with 100 ml of ether. The organic phases are washed with water, dried over magnesium sulphate and evaporated under reduced pressure. The residue is chromatographed on silica gel using a cyclohexane/ethylacetate (70:30) mixture as eluant. After recrystallization in isopropylether/ether (5:2) mixture, 1.16 g of N-methyl N-(1-methylpropyl) 4-(2-fluorophenyl) quinoline 2-carboxamide melting at 86° C. is obtained.

reactant | 4-(2-fluorophenyl) quinoline 2-carboxylic acid | 3.3 g | FC1=C(C=CC=C1)C1=CC(=NC2=CC=CC=C12)C(=O)O | C16H10FNO2
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | N-methyl N-(1-methylpropyl) 4-(2-fluorophenyl) quinoline 2-carboxamide | 1.16 g | CN(C(=O)C1=NC2=CC=CC=C2C(=C1)C1=C(C=CC=C1)F)C(CC)C | C21H21FN2O
